US09278968B2
To a mixture of 1.93 g of N-[2-(1,2-dihydroxyethyl)benzyl]-2,2,2-trifluoroacetamide and 20 ml of acetone were added 1.1 ml of 2-methoxyprop-1-ene and 140 mg of 4-methylbenzenesulfonic acid monohydrate under ice-cooling, followed by stirring at room temperature for 2 hours. To the reaction mixture was added an aqueous sodium hydrogen carbonate solution under ice-cooling, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2.2 g of N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2,2,2-trifluoroacetamide.

reactant | N-[2-(1,2-dihydroxyethyl)benzyl]-2,2,2-trifluoroacetamide | 1.93 g | OC(CO)C1=C(CNC(C(F)(F)F)=O)C=CC=C1 | C11H12F3NO3
reactant | 2-methoxyprop-1-ene | 1.1 ml | COC(=C)C | C4H8O
reactant | 4-methylbenzenesulfonic acid monohydrate | 140 mg | O.CC1=CC=C(C=C1)S(=O)(=O)O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2,2,2-trifluoroacetamide | 2.2 g | CC1(OCC(O1)C1=C(CNC(C(F)(F)F)=O)C=CC=C1)C | C14H16F3NO3
